US07452886B2
B. 4-(2,4-Dimethoxy-phenyl)-piperidine
4-(2,4-Dimethoxy-phenyl)-pyridine (6.9 g) is dissolved in a mixture of Ethanol (140 ml) and conc hydrochloric acid (3.5 ml). PtO2 (0.7 g) is added and the mixture is stirred under hydrogen atmosphere for 8 hours. The catalyst is filtered off and the solution is evaporated to dryness. MS-APCI+ (M+H)+=222

reactant | 4-(2,4-Dimethoxy-phenyl)-pyridine | 6.9 g | COC1=C(C=CC(=C1)OC)C1=CC=NC=C1 | C13H13NO2
solvent | Ethanol | 140 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 3.5 ml | Cl | ClH
catalyst | PtO2 | 0.7 g | O=[Pt]=O
product | 4-(2,4-Dimethoxy-phenyl)-piperidine | COC1=C(C=CC(=C1)OC)C1CCNCC1 | C13H19NO2
